### PR TITLE
strict spec using relation-algebra

### PR DESCRIPTION
**Pull request by eupp**
1) rename `strict` --> `strictify` (verb form, the name is debatable)
2) prove specification lemmas about `strictify` using relation-algebra

* A minor related problem --- import of relation-algebra also brings in scope some definitions from vanilla Coq, which shadow `ssrbool` definitions (see lines 11-13). Any ideas on how to avoid this?

### CODE REVIEW

File: relations.v [hunk 1]
```diff
@@ -22,42 +28,48 @@ Arguments reflexive {_}.
...
+  fun x => filter^~ (f x) (fun y => x != y).
 
-Lemma in_strict {T : eqType} (f : T -> seq T) a b :
-  (a != b) -> (a \in f b) -> ((sfrel f\eq) a b).
-Proof. by rewrite /sfrel /strict /= mem_filter => -> ->. Qed. 
+Lemma strictify_weq f :
+  sfrel (strictify f) ≡ (sfrel f \ eq_op).
+Proof. 
+  move=> x y. rewrite /sfrel /strictify //=.
+  by rewrite /=mem_filter andbC eq_sym.
```
Comment (anton-trunov) [inline relations.v:46]:
```suggestion
  move=> x y; rewrite /sfrel /strictify /=.
  by rewrite mem_filter andbC eq_sym.
```
`eq_sym` is not necessary here if we tweak `strictify` as I suggested above.

File: relations.v [hunk 2]
```diff
@@ -22,42 +28,48 @@ Arguments reflexive {_}.
...
 
-Notation "f '\eq'" := (strict f) (at level 5, format "f '\eq'").
+Context {T : eqType}.
+Implicit Type (f : T -> seq T).
 
-Lemma strict_in_sfrel {T : eqType} (f : T -> seq T) a b : 
-  sfrel f\eq a b -> sfrel f a b.
-Proof. by rewrite /strict /sfrel /= mem_filter => /andP[]. Qed.
+Definition strictify f : T -> seq T :=
+  fun x => filter^~ (f x) (fun y => x != y).
```
Comment (anton-trunov) [inline relations.v:40]: Maybe we could switch to this definition here to save some rewrites by `eq_sym` down below?
```suggestion
  fun x => filter^~ (f x) (fun y => y != x).
```

File: relations.v [hunk 3]
```diff
@@ -22,42 +28,48 @@ Arguments reflexive {_}.
...
 Context {disp : unit} {T : wfType disp}.
 
 Variable (f : T -> seq T).
 
 Hypothesis descend : forall x n, x \in f n -> x <= n.
 
-Lemma strict_lt n k : k \in f\eq n -> k < n.
-Proof. by rewrite mem_filter lt_neqAle => /andP[] -> /descend ->. Qed.
+Lemma strict_lt n k : k \in (strictify f) n -> k < n.
+Proof. by rewrite mem_filter lt_neqAle eq_sym=> /andP[] -> /descend ->. Qed.
```
Comment (anton-trunov) [inline relations.v:64]: One `eq_sym` could be removed if we tweak `strictify` a bit.

File: relations.v [hunk 4]
```diff
@@ -22,42 +28,48 @@ Arguments reflexive {_}.
...
 
 Hint Resolve strict_lt : core.
 
-Lemma rel_sublt a b : (sfrel f\eq) a b -> a < b.
+Lemma rel_sublt a b : (sfrel (strictify f)) a b -> a < b.
 Proof. rewrite/sfrel /=. exact: strict_lt. Qed.
```
Comment (anton-trunov) [inline relations.v:69]: Not related to this PR but I just spotted this:
```suggestion
Proof. exact: strict_lt. Qed.
```
I'm wondering just how useful this lemma can be :)

File: relations.v [hunk 5]
```diff
@@ -152,11 +164,11 @@ Proof.
...
 
 Lemma filter_clos_sub a b :
-  clos_trans_n1 (sfrel f\eq) a b -> clos_trans_n1 (sfrel f) a b.
+  clos_trans_n1 (sfrel (strictify f)) a b -> clos_trans_n1 (sfrel f) a b.
 Proof.
   elim=> [c sfac | c d sfcd ctacn ctac].
-  { apply /tn1_step. move: sfac. auto. }
-  apply /tn1_trans; last exact: ctac. move: sfcd. auto.
+  { apply /tn1_step; move: sfac; exact: strictify_leq. }
+  apply /tn1_trans; last exact: ctac; move: sfcd; exact: strictify_leq.
```
Comment (anton-trunov) [inline relations.v:171]:
```suggestion
  { apply/tn1_step; exact: strictify_leq. }
  by apply: tn1_trans ctac; apply: strictify_leq.
```

File: relations.v [hunk 6]
```diff
@@ -1,14 +1,20 @@
 From Coq Require Import Relations Relation_Operators.
 From mathcomp Require Import ssreflect ssrbool ssrfun eqtype seq order.
+From RelationAlgebra Require Import lattice monoid rel kat_tac.
```
Comment (anton-trunov) [inline relations.v:3]: Changing the order of imports to the following one should fix the shadowing issue, I think.
```suggestion
From Coq Require Import Relations Relation_Operators.
From RelationAlgebra Require Import lattice monoid rel kat_tac.
From mathcomp Require Import ssreflect ssrbool ssrfun eqtype seq order.
```
